US05506235
C. Ethyl 4-[4-(cyclohexylmethyloxy)phenylamino]quinolin-6-carboxylate Hydrochloride
In a manner similar to that described in Example 39, Part B., 2.0 g (8.48 mmol) of ethyl 4-chloroquinolin-6-carboxylate and 1.74 g (8.48 mmol) of 4-(cyclohexylmethyloxy)aniline were transformed into the title compound: yield 3.41 g (92%); m.p. 251°-253° C.

reactant | ethyl 4-chloroquinolin-6-carboxylate | 8.48 mmol, 2.0 g | ClC1=CC=NC2=CC=C(C=C12)C(=O)OCC | C12H10ClNO2
reactant | 4-(cyclohexylmethyloxy)aniline | 8.48 mmol, 1.74 g | C1(CCCCC1)COC1=CC=C(N)C=C1 | C13H19NO
product | Ethyl 4-[4-(cyclohexylmethyloxy)phenylamino]quinolin-6-carboxylate Hydrochloride | Cl.C1(CCCCC1)COC1=CC=C(C=C1)NC1=CC=NC2=CC=C(C=C12)C(=O)OCC | InChI=1S/C25H28N2O3.ClH/c1-2-29-25(28)19-8-13-23-22(16-19)24(14-15-26-23)27-20-9-11-21(12-10-20)30-17-18-6-4-3-5-7-18;/h8-16,18H,2-7,17H2,1H3,(H,26,27);1H
